US07932262B2
To 7-(piperidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)quinazolin-2-amine in DCM was added acetone (10 eq), a few drops of acetic acid and sodium triacetoxy borohydride (4 eq). The reaction mixture was stirred for 16 h at ambient temperature. The reductive amination went to completion to give 7-(1-isopropylpiperidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)quinazolin-2-amine. The mixture was then purified on prep HPLC to give 7-(1-isopropylpiperidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)quinazolin-2-amine. ES/MS m/z 431 (MH+).

reactant | 7-(piperidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)quinazolin-2-amine | N1CCC(CC1)OC1=CC=C2C=NC(=NC2=C1)NC1=CC(=CC=C1)C(F)(F)F | C20H19F3N4O
reactant | acetone | 10 eq | CC(=O)C | C3H6O
reactant | sodium triacetoxy borohydride | 4 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 7-(1-isopropylpiperidin-4-yloxy)-N-(3-(trifluoromethyl)phenyl)quinazolin-2-amine | C(C)(C)N1CCC(CC1)OC1=CC=C2C=NC(=NC2=C1)NC1=CC(=CC=C1)C(F)(F)F | C23H25F3N4O
